US07291635B2
To a suspension of 1.1 g (5.4 mmol) of the title C compound, 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid in 25 mL of MeOH is added dropwise 0.7 g (5.9 mmol) of thionyl chloride and the resulting solution is stirred at 700 for 6 h, then at RT for 18 h. The solvent is removed under reduced pressure and 8% aqueous NaHCO3 solution is added to the residue. The mixture is extracted with EtOAc and the organic phase is dried over anhydrous Na2SO4. The organic solution is concentrated until the product precipitated. The solid is collected by filtration, washed with EtOH and MTBE to give 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester as a beige solid: mp=118-121° C.; IR (KBr) 3430, 1695 cm−1; 1H-NMR (CDCl3) δ 8.39 (s, 1H), 7.98 (dd, 1H), 7.32 (d, J=8.45, 1H), 4.19 (q, 2H), 3.94 (s, 3H), 2.64 (s, 3H), 1.43 (t, 3H); [M+1]+=219.

reactant | 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid | C(C)N1C(=NC2=C1C=CC(=C2)C(=O)O)C | C11H12N2O2
reactant | thionyl chloride | 5.9 mmol, 0.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 25 mL | CO | CH4O
product | 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)C)CC)C=C1 | C12H14N2O2
